US08445674B2
B) (R)-2-(3-Chloro-4-trifluoromethyl-phenylamino)-propan-1-ol (22% ee)
20.55 ml (20.55 mmol, 1 M in THF) of a borane-tetrahydrofuran complex solution was added dropwise at 0° C. to a solution of 2.20 g (8.20 mmol) of (R)-2-(3-chloro-4-trifluoromethyl-phenylamino)-propionic acid (22% ee) in 33 ml THF, then after 10 min the ice bath was removed and the solution stirred for 2.5 h at RT. After cooling, 14 ml of MeOH and 0.7 ml of H2SO4 were added, and after 30 min at RT and 1 h at reflux the reaction mixture was concentrated in vacuo. The residue was partitioned between 1 M aq. sodium hydroxide saturated with NaCl solution and EtOAc (3×). The organic layer was washed with brine, dried (Na2SO4), filtered, and evaporated. Flash silica gel column (CH2Cl2/MeOH 99:1) afforded 1.94 g (93%) of the title compound as a 61:39 mixture of the (R) and (S) stereoisomers as yellow oil. MS: 252.04 (M−H−, Cl)

reactant | (R)-2-(3-chloro-4-trifluoromethyl-phenylamino)-propionic acid | 8.20 mmol, 2.20 g | ClC=1C=C(C=CC1C(F)(F)F)N[C@@H](C(=O)O)C | C10H9ClF3NO2
solvent | THF | 33 ml | C1CCOC1 | C4H8O
product | (R)-2-(3-Chloro-4-trifluoromethyl-phenylamino)-propan-1-ol | 1.94 g, 93% | ClC=1C=C(C=CC1C(F)(F)F)N[C@@H](CO)C | C10H11ClF3NO
